### PR TITLE
feat(GreensOpenProblems): formalize problem 65

### PR DESCRIPTION
**Pull request by Robertboy18**
Formalizes Green's Open Problem 65:)!

Here I add the:
- the nonzero-square difference-set question;
- the prime-minus-one variant;
- helper definitions for the integer interval, signed difference set, and shared large-difference-pattern shape.

It is related to this issue #1685! The build passes.

### CODE REVIEW

**Comment by williamjblair** [comment]
Checked against the source PDF: Problem 65 asks both halves, so headline plus variant is right, and Green's "a set of size `N^(1-c)`" reads as "at least", which is what `≤` gives. Builds clean.

The one departure from the literal problem is `∀ᶠ N in atTop`, and the docstring asserts it's necessary without backing it. It is:

```lean
/-- Without "sufficiently large `N`" the question is false for every `c`:
`A = {1} ⊆ [1]` has `|A| = 1 = 1 ^ (1 - c)` and `A - A = {0}`. -/
@[category test, AMS 5 11]
theorem not_forall_of_isNonzeroSquare :
    ¬ ∃ c : ℝ, 0 < c ∧ c < 1 ∧ ∀ N : ℕ, ∀ A : Finset ℤ,
      A ⊆ interval N → (N : ℝ) ^ (1 - c) ≤ (A.card : ℝ) →
        ∃ d ∈ differenceSet A, IsNonzeroSquare d := by
  rintro ⟨c, -, -, h⟩
  obtain ⟨d, ⟨a, ha, b, hb, rfl⟩, n, hn, hdn⟩ :=
    h 1 {1} (by decide) (by norm_num [Real.one_rpow])
  simp only [Finset.mem_singleton] at ha hb
  subst ha; subst hb
  rw [eq_comm] at hdn
  simp at hdn
  exact hn hdn
```

Compiles as written. The file has no tests at present.

File: FormalConjectures/GreensOpenProblems/65.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+def interval (N : ℕ) : Finset ℤ :=
+  Finset.Icc (1 : ℤ) (N : ℤ)
+
+/-- The signed difference set `A - A`. -/
+def differenceSet (A : Finset ℤ) : Set ℤ :=
+  {d | ∃ a ∈ A, ∃ b ∈ A, d = a - b}
+
+/--
+There is a fixed density exponent `c > 0` such that every sufficiently large subset
+`A ⊆ [N]` with `|A| ≥ N^(1-c)` has a difference satisfying `P`.
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/65.lean]: please use latex docstring here and everywhere else

File: FormalConjectures/GreensOpenProblems/65.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+-/
+@[category research open, AMS 5 11]
+theorem green_65 :
+    answer(sorry) ↔ LargeDifferencePattern IsNonzeroSquare := by
+  sorry
+
+/--
+Green asks the analogous question with "nonzero square" replaced by "prime minus one".
+-/
+@[category research open, AMS 5 11]
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/65.lean]: is this really open? I thought Green mentiones some results in the update?

File: FormalConjectures/GreensOpenProblems/65.lean (hunk 1 above)
Comment (Robertboy18) [reply FormalConjectures/GreensOpenProblems/65.lean]: Yep, fixed — I switched the mathematical notation in the docstrings to `$...$` throughout the file.

File: FormalConjectures/GreensOpenProblems/65.lean (hunk 2 above)
Comment (Robertboy18) [reply FormalConjectures/GreensOpenProblems/65.lean]: Good catch, it is not open. Green’s Theorem 1.1 gives a power-saving bound for sets avoiding differences of the form $p - 1$; shrinking the exponent slightly absorbs the implied constant for sufficiently large $N$, so it implies this eventual formulation. I added the reference and marked the variant solved.

**Comment by Robertboy18** [comment]
-awaiting-author

**Review by AItoBit — APPROVED** [review]
## Verdict

Approve. The Lean matches Green’s Problem 65, and the earlier review comments are addressed.

## Statements vs source

Green asks: is there \(c>0\) such that every \(A\subset[N]\) of size \(N^{1-c}\) has a nonzero square in \(A-A\)? Same question for \(p-1\).

- `green_65` is the square question, tagged `research open` with `answer(sorry)`. Correct.
- `green_65.variants.prime_minus_one` is the shifted-prime question, tagged `research solved` with `answer(True)`. Matches Green 2022, Theorem 1.1. The \(\ll N^{1-c}\) bound implies this eventual form after shrinking \(c\).
- `|A|\ge N^{1-c}` is the right reading of “a set of size \(N^{1-c}\)”.
- `∀ᶠ N in atTop` is necessary: for \(N=1\), \(A=\{1\}\) has size \(1^{1-c}\) and \(A-A=\{0\}\). `not_forall_of_isNonzeroSquare` proves this.
- `0<c<1` does not change the yes/no answer: no \(c\ge 1\) can work.

## Checks

- Categories, AMS 5 11, namespace, copyright, and `answer(sorry)` / `answer(True)` are in order.
- The small-\(N\) test is short and useful.
- CI was green on the last push (Aug 14).

## Pre-merge nits (not statement bugs)

Current `main` problem files start with `module`, `public import FormalConjecturesUtil`, and `@[expose] public section`. This file still uses a pre-module `import`. Please update the header so a re-run of CI on current `main` stays green.

Optional later: `differenceSet` is `A - A` under `open scoped Pointwise`; Green’s comments also mention Ruzsa’s obstruction and the \(100A-100A\) variant. Those can be follow-ups.

Fixes the two questions in #1685.

**Review by AItoBit — APPROVED** [review]
